US07125888B2
To a solution of 4-(3-phenylimidazo[1,2-a]pyridin-7-yl)-1-(3-piperidin-1-ylpropyl)pyridin-2(1H)-one (0.210 g, 0.503 mmol) in 5.0 mL of a 2:1 solution of chloroform: (50% trifluoracetic acid:water) at 0° C. After 1 hour solvent was removed under reduced pressure to give 3-[2-oxo-4-(3-phenylimidazo[1,2-a]pyridin-7-yl)pyridin-1(2H)-yl]propanal. 1H NMR (CDCl3) δ 8.94 (s, 1H), 8.90 (d, 1H, J=6.84 Hz), 8.05 (s, 1H), 7.73–7.64 (m, 6H), 7.60 (m, 4H), 4.90 (t, 2H, J=5.13 Hz), 2.60 (m, 2H). LCMS m/z (M+1) Calc: 344.1, found 344.0

reactant | 4-(3-phenylimidazo[1,2-a]pyridin-7-yl)-1-(3-piperidin-1-ylpropyl)pyridin-2(1H)-one | 0.503 mmol, 0.210 g | C1(=CC=CC=C1)C1=CN=C2N1C=CC(=C2)C2=CC(N(C=C2)CCCN2CCCCC2)=O | C26H28N4O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | trifluoracetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | 3-[2-oxo-4-(3-phenylimidazo[1,2-a]pyridin-7-yl)pyridin-1(2H)-yl]propanal | O=C1N(C=CC(=C1)C1=CC=2N(C=C1)C(=CN2)C2=CC=CC=C2)CCC=O | C21H17N3O2
